US07176217B2
To a solution of ethyl 2-(1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate (1.29 g, 4.77 mmol) in ethyl acetate (10 ml) was added 20 wt % Pd(OH)2 (1.47 g), and the mixture was stirred under a hydrogen atmosphere at 45° C. for 24 hours. After a filtration through Celite, the solvent was evaporated. The residue was purified by silica gel column chromatography (1%–3% methanol/chloroform), to give ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate (0.181 g, 22%).

reactant | ethyl 2-(1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate | 4.77 mmol, 1.29 g | C1(=CC=CC=C1)C(C)N1C2C=CC(C1C(=O)OCC)C2 | C17H21NO2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 1.47 g | [OH-].[OH-].[Pd+2]
product | ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate | 0.181 g, 22% | C12NC(C(CC1)C2)C(=O)OCC | C9H15NO2
